US04933345
5-Benzyloxy-4-methoxymethyl-3-(3-isoxazolyl)-β-carboline
103 mg of 5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carbaldehyde oxime is combined in 5 ml of methylene chloride with 22 mg of N-chlorosuccinimide and agitated for one hour at room temperature. Subsequently 30 mg of trimethylsilylacetylene and 0.13 ml of triethylamine are added and the mixture stirred for 2 hours at room temperature. The mixture is then combined with 1 ml of 1N sodium hydroxide solution and agitated for one hour at room temperature, poured on 25 ml of water, extracted with 25 ml of methylene chloride, and the organic phase is dried, filtered, and concentrated. The residue is refluxed for 1.5 hours in 15 ml of methanol with 54 mg of sodium methylate. After concentration, the mixture is taken up in 25 ml of water and extracted with ethyl acetate. After drying and filtration, the organic phase is concentrated and the residue is chromatographed over silica gel with toluene+ethyl acetate in a ratio of 1:1 as the eluent.

reactant | 5-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carbaldehyde oxime | 103 mg | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3N(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C=NO)COC | C28H25N3O5S
reactant | N-chlorosuccinimide | 22 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | trimethylsilylacetylene | 30 mg | C[Si](C)(C)C#C | C5H10Si
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
solvent | triethylamine | 0.13 ml | C(C)N(CC)CC | C6H15N
product | 5-Benzyloxy-4-methoxymethyl-3-(3-isoxazolyl)-β-carboline | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3NC2=CC=C1)C1=NOC=C1)COC | C23H19N3O3
